US05627202
Step E: 1-(Triphenylmethyl)-1H-imidazol-4-ylacetic acid methyl ester
To a solution of 1H-Imidazole-4-acetic acid methyl ester hydrochloride (24.85 g, 0.14 mol) in dimethyl formamide (DMF) (115 ml) was added triethylamine (57.2 ml, 0.412 mol) and triphenylmethyl bromide(55.3 g, 0.171 mol) and the suspension was stirred for 24 hr. After this time, the reaction mixture was diluted with ethyl acetate (EtOAc) (1l) and water (350 ml). The organic phase was washed with sat. aq. NaHCO3 (350 ml), dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (SiO2, 0-100% ethyl acetate in hexanes; gradient elution) to provide the title compound as a white solid.

reactant | 1H-Imidazole-4-acetic acid methyl ester hydrochloride | 0.14 mol, 24.85 g | Cl.COC(CC=1N=CNC1)=O
reactant | triethylamine | 0.412 mol, 57.2 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylmethyl bromide | 0.171 mol, 55.3 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C19H15Br
solvent | dimethyl formamide | 115 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 350 ml | O | H2O
product | 1-(Triphenylmethyl)-1H-imidazol-4-ylacetic acid methyl ester | COC(CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H22N2O2
